US07288544B2
4.00 g (21.0 mmol) of acetoacetic acid benzyl ester was dissolved in 40 ml of ether. 1.1 ml (21.0 mmol) of bromine was dropped at 0° C. After stirring at 0° C. for 30 minutes and then at room temperature for 5 hours, about 4 g of ice and sodium carbonate were added so that pH showed 7 or more. The organic layer extracted with ether was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, concentrated and dried in vacuo to obtain 4-bromoacetoacetic acid benzyl ester. 1.68 g (24.0 mmol) of sodium hydride (60% oily substance) was susptended in 20 ml of THF and 11.7 g (21.0 mmol) of 2-chloroethanol was added at −40° C. 4-bromoacetoacetic acid benzyl ester was dropped at −40° C., gradually heated and stirred at room temperature for 16 hours. After adding 1 N hydrochloric acid and extracting with ethyl acetate, the obtained mixture was washed with water and saturated aqueous sodium chloride solution. The mixture was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=7/3) to obtain the title compound.

reactant | acetoacetic acid benzyl ester | 21.0 mmol, 4.00 g | C(C1=CC=CC=C1)OC(CC(=O)C)=O | C11H12O3
reactant | bromine | 21.0 mmol, 1.1 ml | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | 40 ml | CCOCC | C4H10O
product | 4-bromoacetoacetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(=O)CBr)=O | C11H11BrO3
